US06046201
N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a solution of 72 mg of N-(12-mesyloxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide in acetone was added 130 mg of sodium iodide and the mixture was heated under reflux for 10 hours. To the reaction solution were added water and chloroform and extracted with chloroform. The chloroform layer was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure. The residue thus obtained was chromatographed over a silica gel column to afford 69.0 mg of the title compound.

reactant | N-(12-mesyloxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 72 mg | S(=O)(=O)(C)OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C25H44N4O4S
reactant | sodium iodide | 130 mg | [I-].[Na+]
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | CC(=O)C | C3H6O
product | N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 69.0 mg | ICCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41IN4O
